US08791161B2
3-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]thio}-N-isopropylpropanamide
Following General Procedure H, B, the title compound was prepared from 2-amino-4-chloro-benzenethiol, N-isopropyl-acrylamide, and 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride.

reactant | 2-amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | N-isopropyl-acrylamide | C(C)(C)NC(C=C)=O | C6H11NO
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
product | 3-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]thio}-N-isopropylpropanamide | ClC1=CC(=C(C=C1)SCCC(=O)NC(C)C)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C19H19Cl2F3N2O3S2
